US05914339
5-(2-{tert-Butoxycarbonyl-[2-(3-chloro-phenyl)-2-hydroxy-ethyl]-amino}-propyl)-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-propoxycarbonylmethyl ester
The title compound was prepared from 5-(2-{tert-butoxycarbonyl-[2-(3-chloro-phenyl)-2-hydroxy-ethyl]-amino}-propyl)-benzo[1,3]dioxole-2,2-dicarboxylic acid and propyl 2-bromoacetate according to the procedure of Example 24, step 3 as a colorless oil: 1H NMR (300 MHz, CDCl3): δ 0.91 (t, J=7.4 Hz, 6H), 1.21 (d, J=6.9 Hz, 3H), 1.40 (s, 9H), 1.55-1.72 (m, 4H), 2.47-2.70 (m, 1H), 3.05-3.17 (m, 1H), 3.46-3.60 (m, 1H), 4.11 (t, J=6.6 Hz, 4H), 4.70-4.85 (m, 4H), 5.47 (s, 1H), 6.60-6.92 (m, 3H), 7.20-7.35 (m, 3H), 7.41 (s, 1H); MS (ES) m/z (relative intensity): 722 (M+, 100).

reactant | 5-(2-{tert-butoxycarbonyl-[2-(3-chloro-phenyl)-2-hydroxy-ethyl]-amino}-propyl)-benzo[1,3]dioxole-2,2-dicarboxylic acid | C(C)(C)(C)OC(=O)N(C(CC1=CC2=C(OC(O2)(C(=O)O)C(=O)O)C=C1)C)CC(O)C1=CC(=CC=C1)Cl | C25H28ClNO9
reactant | propyl 2-bromoacetate | BrCC(=O)OCCC | C5H9BrO2
product | 5-(2-{tert-Butoxycarbonyl-[2-(3-chloro-phenyl)-2-hydroxy-ethyl]-amino}-propyl)-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-propoxycarbonylmethyl ester | C(CC)OC(=O)C(C(=O)OCCC)OC(=O)C1(OC2=C(O1)C=CC(=C2)CC(C)N(CC(O)C2=CC(=CC=C2)Cl)C(=O)OC(C)(C)C)C(=O)O | C34H42ClNO13
